US05128355
To 60 mL of ethanol at 25° was added portionwise 0.30 g of sodium metal. After the sodium metal has reacted 3.54 g of 1-(4-benzyloxybenzyl)-5-carbomethoxy-2-(3H)-imidazolethione was added followed immediately by 2.24 mL of 1-iodopropane, and the mixture was stirred at 24° for 3 hours. At this point, the solvent was removed in vacuo, and the residue was dissolved in methylene chloride. This solution was washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to furnish 3.46 g of crude 1-(4-benzyloxybenzyl)-2-propylthio-5-carboethoxyimidazole, used in a subsequent reaction without further purification; NMR (200 MHz, CDCl3): δ 7.77 (s, 1h); 7.45-7.32 (m, 5H); 7.03 (A2B2, 4H); 5.49 (s, 2H); 5.03 (s, 2H); 4.28 (quart., 2H); 3.20 (t, 2H); 1.32 (t, 3H); 1.02 (t, 3H).

reactant | sodium | 0.30 g | [Na] | Na
reactant | 1-(4-benzyloxybenzyl)-5-carbomethoxy-2-(3H)-imidazolethione | 3.54 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(NC=C2C(=O)OC)=S)C=C1 | C19H18N2O3S
reactant | 1-iodopropane | 2.24 mL | ICCC | C3H7I
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | 1-(4-benzyloxybenzyl)-2-propylthio-5-carboethoxyimidazole | 3.46 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=NC=C2C(=O)OCC)SCCC)C=C1 | C23H26N2O3S
